US07388019B2
Step A: 1-Benzyl-4-pyrrolidino-1,2,5,6-tetrahydropyridine
A solution of N-benzyl piperidone (20.0 g, 53 mmol) and pyrrolidine (14.0 mL, 80 mmol) in 300 mL of toluene was warmed at reflux overnight with azeotropic removal of water. The reaction mixture was then cooled and concentrated under reduced pressure. The resultant dark oil was dissolved in 200 mL of ether, dried over magnesium sulfate, filtered and concentrated under reduced pressure.

reactant | N-benzyl piperidone | 53 mmol, 20.0 g | C(C1=CC=CC=C1)N1C(CCCC1)=O | C12H15NO
reactant | pyrrolidine | 80 mmol, 14.0 mL | N1CCCC1 | C4H9N
reactant | water | O | H2O
solvent | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzyl-4-pyrrolidino-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC=C(CC1)N1CCCC1 | C16H22N2
